US05061804
To a solution of (2S,4R)-2-[(3-azido-2-hydroxypropyl)thiomethyl]-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.94 g) in pyridine (6 ml) was added triphenylphosphine (1.55 g) and the mixture was stirred at ambient temperature for 1 hour. To the reaction mixture was added conc. ammonia (0.50 ml) and the mixture was allowed to stand overnight at ambient temperature. The reaction mixture was concentrated under reduced pressure. The resulting mixture was dissolved in ethyl acetate (40 ml) and the solution was washed with saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo to give (2S,4R)-2-[(3-amino-2-hydroxypropyl)thiomethyl]-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrroliidine. The residue containing the compound obtained above was dissolved in a mixture of ethyl acetate and water (3:1 V/V, 40 ml). To the solution was dropwise added a solution of 4-nitrobenzyloxycarbonyl chloride (0.87 g) in tetrahydrofuran (3 ml) with stirring at 2°-5° C., keeping the pH between 9-10 with 1N sodium hydroxide. The mixture was stirred at the same temperature for 1 hour. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo. The resulting residue was chromatographed on silica gel (100 g) eluting with a mixture of dichloromethane and acetone (9:1 v/v). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4R)-2-{3-(4-nitrobenzyloxycarbonyl)amino-2hydroxypropyl}thiomethyl-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (2.25 g).

reactant | (2S,4R)-2-[(3-azido-2-hydroxypropyl)thiomethyl]-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.94 g | N(=[N+]=[N-])CC(CSC[C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])O | C22H35N5O6SSi
reactant | triphenylphosphine | 1.55 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ammonia | 0.50 ml | N | H3N
reactant | 4-nitrobenzyloxycarbonyl chloride | 0.87 g | [N+](=O)([O-])C1=CC=C(COC(=O)Cl)C=C1 | C8H6ClNO4
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | (2S,4R)-2-{3-(4-nitrobenzyloxycarbonyl)amino-2hydroxypropyl}thiomethyl-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 2.25 g | [N+](=O)([O-])C1=CC=C(COC(=O)NCC(CSC[C@H]2N(C[C@@H](C2)O[Si](C)(C)C(C)(C)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])O)C=C1 | C30H42N4O10SSi
